US04250085
N-Benzylglycine hydrochloride was taken up in 2-N sodium hydroxide and the mixture was stirred at -5° C. while 4-N sodium hydroxide and benzyl chloroformate were simultaneously added dropwise. The mixture was stirred in the cold for 2 hours and then stirred at room temperature for 0.5 hour. Excess benzyl chloroformate was removed by extraction with ether. The aqueous layer was cooled to -5° C. and acidified with concentrated hydrochloric acid. The mixture was stirred in the cold for 1 hour, then brought to room temperature and extracted 4 times with diethyl ether. The diethyl ether extracts were back-washed with water, filtered and then dried over anhydrous sulphate and again filtered. Evaporation gave N-benzyl-N-benzyloxycarbonyl-glycine in the form of an oil.

reactant | N-Benzylglycine hydrochloride | Cl.C(C1=CC=CC=C1)NCC(=O)O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | N-benzyl-N-benzyloxycarbonyl-glycine | C(C1=CC=CC=C1)N(CC(=O)O)C(=O)OCC1=CC=CC=C1 | C17H17NO4
